US05190953
4-Amino-N-(1-azabicyclo[3.2.1]oct-5-ylmethyl)-5-chloro-2-(2-propenyloxy)benzamide
Following the procedure of Example 1, the title compound is prepared from 4-amino-5-chloro-2-(2-propenyloxy)benzoic acid and 1-azabicyclo[3.2.1]octan-5-methanamine.

reactant | 4-amino-5-chloro-2-(2-propenyloxy)benzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OCC=C | C10H10ClNO3
reactant | 1-azabicyclo[3.2.1]octan-5-methanamine | N12CCCC(CC1)(C2)CN | C8H16N2
product | 4-Amino-N-(1-azabicyclo[3.2.1]oct-5-ylmethyl)-5-chloro-2-(2-propenyloxy)benzamide | NC1=CC(=C(C(=O)NCC23CCCN(CC2)C3)C=C1Cl)OCC=C | C18H24ClN3O2
